US08227651B1
High density fuel candidates have been synthesized in up to 90% yield from β-pinene, a renewable strained bicyclic compound derived from wood and plant sources. These novel synthesis are based on heterogeneous acidic catalysts (also referred to as heteropolyacidic catalysts) including Montmorillonite-K10 and Nafion® NR-50 which promote selective isomerization and dimerization of pinenes under moderate conditions (100° C., atmospheric pressure). Montmorillonite clays have been used as catalysts for number of organic reactions and offer several advantages over classical acids. For example, the strong acidity, non-corrosive properties, mild reaction conditions, high yields, selectivity, low cost, and the ease of setting and working-up. The mesoporous Montmorillonite clays, which are dioctahedral phyllosilicates, are composed of hydrated sodium calcium aluminium magnesium silicate hydroxide (Na,Ca)0.33(Al,Mg)2(Si4O10)(OH)2.nH2O, with an octahedral layer (AlO6 units) sandwiched between two tetrahedral layers (SiO4 units). Potassium, iron, and other cations are common substitutes. These clays typically have a surface area of 220-270 m2/g. Montmorillonite-K10 is a strong Bronsted and Lewis acidic catalyst shown to be a highly active catalyst for dimerization but is also active in the ring opening of β-pinene followed by dehydrogenation to produce p-cymene. This limited the yield of dimer to about 75%. Nafion catalysis was capable of producing dimers in up to 90% yield but was less active than the acidic clay. Amberlyst-15, a common industrial catalyst had very poor activity and conversion even at 150° C.

reactant | β-pinene | CC1(C2CCC(=C)C1C2)C | C10H16
reactant | Potassium | [K] | K
catalyst | iron | [Fe] | Fe
product | p-cymene | 90% yield | CC=1C=CC(=CC1)C(C)C | C10H14
